US09315489B2
Stage 37.1 3-Bromo-4-hydroxy-N-(4-(trifluoromethoxy)phenyl)benzamide
SOCl2 (8.41 mL, 115 mmol) was added to a suspension of 3-bromo-4-hydroxybenzoic acid (5 g, 23.04 mmol) in toluene (50 mL) and the RM was stirred at 80° C. for 2.5 h. The solvent was evaporated off under reduced pressure and the residue was dissolved in THF (25 mL). DIPEA (8.05 mL, 46.1 mmol) was added and the RM was cooled to 0° C., treated with a solution of 4-trifluoromethoxyaniline (3.40 mL, 25.3 mmol) in THF (5 mL) and stirred for 1 h. The RM was treated with 4M NaOH (23.04 mL, 92 mmol), heated at 100° C. for 3 h and the solvent was evaporated off under reduced pressure. The residue was treated with aq. HCl (50 mL of 1M), and extracted with TBME/EtOAc (1:1). The combined extracts were washed with sat. aq. NaHCO3 and brine, dried over MgSO4 and the solvent was evaporated off under reduced pressure to give the crude product was purified by flash chromatography (Silica gel column, 100 g, DCM/EtOAc from 0% to 20EtOAc) and crystallized from cyclohexane/DCM to afford the title compound as a beige solid. UPLC-MS (Condition 1) tR=2.70 min, m/z=375.9/377.8 [M+H]+, m/z=374.0/375.9 [M−H]−; 1H-NMR (400 MHz, DMSO-d6) δ ppm 7.05 (d, J=8.6 Hz, 1H) 7.35 (d, J=8.6 Hz, 2H) 7.80-7.90 (m, 3H) 8.17 (d, J=2.2 Hz, 1H) 10.26 (s, 1H) 11.03 (s, 1H).

reactant | SOCl2 | 115 mmol, 8.41 mL | O=S(Cl)Cl | Cl2OS
reactant | 3-bromo-4-hydroxybenzoic acid | 23.04 mmol, 5 g | BrC=1C=C(C(=O)O)C=CC1O | C7H5BrO3
reactant | DIPEA | 46.1 mmol, 8.05 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-trifluoromethoxyaniline | 25.3 mmol, 3.40 mL | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
reactant | NaOH | 92 mmol, 4M, 23.04 mL | [OH-].[Na+]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-Bromo-4-hydroxy-N-(4-(trifluoromethoxy)phenyl)benzamide | BrC=1C=C(C(=O)NC2=CC=C(C=C2)OC(F)(F)F)C=CC1O | C14H9BrF3NO3
